US04752645
(A) 1,3,4,5-Tetrahydro-4-(4-methoxyphenyl)-3-propyl-6-(trifluoromethyl)-2H-1-benzazepin-2-one
(cis)-1-[2-(Dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-3-(2-propenyl)-6-(trifluoromethyl)-2H-1-benzazepin-2-one (4.25 g; 11.3 mmole) was dissolved in ethyl acetate (65 ml). Palladium on charcoal (0.86 g) was added to the degassed solution, and the mixture was placed on a Parr apparatus for four hours. The material was filtered through a pad of Celite and concentrated giving 4.3 g of crystalline solid.

reactant | (cis)-1-[2-(Dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-3-(2-propenyl)-6-(trifluoromethyl)-2H-1-benzazepin-2-one | 11.3 mmole, 4.25 g | CN(CCN1C([C@H]([C@H](CC2=C1C=CC=C2C(F)(F)F)C2=CC=C(C=C2)OC)CC=C)=O)C | C25H29F3N2O2
solvent | ethyl acetate | 65 ml | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on charcoal | 0.86 g | [Pd] | Pd
product | 1,3,4,5-Tetrahydro-4-(4-methoxyphenyl)-3-propyl-6-(trifluoromethyl)-2H-1-benzazepin-2-one | 4.3 g | COC1=CC=C(C=C1)C1C(C(NC2=C(C1)C(=CC=C2)C(F)(F)F)=O)CCC | C21H22F3NO2
